data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-OCC_2-C(=O)OCC_3-c1cnccc1_4-c1nccs1_5-c1c(F)cccc1_6-C1CCCCC1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)OCC)(C(=O)OCC)(c1cnccc1)","C(=O)(c1nccs1)(c1c(F)cccc1)","NC1CCCCC1"],"products_smiles": ["C(C(=O)OCC)(C(=O)OCC)(c1cnccc1)C(c1nccs1)(c1c(F)cccc1)NC1CCCCC1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])OCC)(C(=O)OCC)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(C(=O)OCC)=C(O)OCC","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])OCC)(C(=O)OCC)(c1cnccc1)C(c1nccs1)(c1c(F)cccc1)NC1CCCCC1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)OCC)(C(=O)OCC)(c1cnccc1)C(c1nccs1)(c1c(F)cccc1)NC1CCCCC1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
